US07259183B2
Preparation of 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amide
To a solution of 50 mg (0.26 mmol) of 5-chloro-1H-indole-7-carboxylic acid and 82 mg of TBTU (0.26 mmol) in 4 ml DMF, were added 0.22 ml (1.28 mmol) of N,N-diisopropyl-ethyl amine. After stirring for 5 min at rt, 101 mg (0.33 mmol) of (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amine were added. After stirring for 4 h at rt, the reaction mixture was diluted with 40 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; EtOAc/heptane 1:4) to give 106 mg light brown foam (43%). MS (ISP) 529.4 (M+H)+.

reactant | 5-chloro-1H-indole-7-carboxylic acid | 0.26 mmol, 50 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | TBTU | 0.26 mmol, 82 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropyl-ethyl amine | 1.28 mmol, 0.22 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amine | 0.33 mmol, 101 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C20H24F3NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amide | 106 mg, 43% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C29H28ClF3N2O2
